US08138187B2
(±)-N,N-Dimethyl-N-[4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)-1-phenylcyclohex-3-enyl]amine (350 mg, 0.84 mmol) was stirred with HBr/glacial acetic acid (33% HBr, 18 ml) until it had dissolved completely. Tin powder (0.98 g, 8.4 mmol) was then added to the mixture in portions in the course of 30 min. When the addition had ended, the reaction mixture was stirred for a further 1.5 h, and for working up it was then concentrated to dryness on rotary evaporator. The residue which remained was rendered basic by addition of 5 N NaOH (40 ml). The solution obtained was extracted with methylene chloride (4×30 ml). The combined organic phases were dried with Na2SO4 and then concentrated. The residue (410 mg) was separated by column chromatography [silica gel 60 (30 g); ethyl acetate/cyclohexane (1:1; 500 ml); ethyl acetate/methanol (2:1, (450 ml)]. N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)-1-phenylcyclohexanamine (less polar diastereoisomer) was obtained in a yield of 132 mg (38%) as a colourless solid with a melting point of 78-84° C. The more polar diastereoisomer was obtained in a yield of 151 mg (43%) as a colourless solid with a melting point of 219-221° C.

reactant | (±)-N,N-Dimethyl-N-[4-(3-methyl-5-trifluoromethoxy-1H-indol-2-yl)-1-phenylcyclohex-3-enyl]amine | 0.84 mmol, 350 mg | CN(C1(CC=C(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)C1=CC=CC=C1)C | C24H25F3N2O
reactant | HBr | 18 ml | Br | BrH
reactant | Tin | 8.4 mmol, 0.98 g | [Sn] | Sn
product | N,N-dimethyl-4-(3-methyl-5-(trifluoromethoxy)-1H-indol-2-yl)-1-phenylcyclohexanamine | CN(C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)OC(F)(F)F)C1=CC=CC=C1)C | C24H27F3N2O
